US04914202
2-[3-Chlorophenyl]-4-[1,1-dimethyl-2-phenylethyl]morpholine hydrochloride
The title compound, m.p. 235° C. (methanol-ethyl acetate), was prepared from 2-[3-chlorophenyl]-4-[1,1-dimethyl-2-phenylethyl]-5-oxomorpholine and lithium aluminium hydride by an analogous procedure to that described in Example 10.

reactant | 2-[3-chlorophenyl]-4-[1,1-dimethyl-2-phenylethyl]-5-oxomorpholine | ClC=1C=C(C=CC1)C1CN(C(CO1)=O)C(CC1=CC=CC=C1)(C)C | C20H22ClNO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 2-[3-Chlorophenyl]-4-[1,1-dimethyl-2-phenylethyl]morpholine hydrochloride | Cl.ClC=1C=C(C=CC1)C1CN(CCO1)C(CC1=CC=CC=C1)(C)C | InChI=1S/C20H24ClNO.ClH/c1-20(2,14-16-7-4-3-5-8-16)22-11-12-23-19(15-22)17-9-6-10-18(21)13-17;/h3-10,13,19H,11-12,14-15H2,1-2H3;1H
